* NDRO — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 11 total
*   B1: area=2.5, IC=250uA
*   B2: area=1.8, IC=180uA
*   B3: area=2.01, IC=201uA
*   B4: area=2.5, IC=250uA
*   B5: area=1.64, IC=164uA
*   B6: area=2.58, IC=258uA
*   B7: area=0.9, IC=90uA
*   B8: area=2.3, IC=230uA
*   B9: area=2.5, IC=250uA
*   B10: area=1.77, IC=177uA
*   B11: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/NDRO.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_NDRO a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=1.80
.param B3=2.01
.param B4=2.5
.param B5=1.64
.param B6=2.58
.param B7=0.90
.param B8=2.30
.param B9=2.5
.param B10=1.77
.param B11=2.5
.param IB1=175u
.param IB2=139u
.param IB3=175u
.param IB4=158u
.param IB5=175u
.param IB6=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param L1=1.8663p
.param L2=3.1100p
.param L3=2.8212p
.param L4=1.7117p
.param L5=2.7767p
.param L6=3.6623p
.param L7=1.4501p
.param L8=2.0153p
.param L9=1.3783p
.param L10=3.2508p
.param L11=3.3341p
.param L12=1.6989p
.param LP1=LP
.param LP3=LP
.param LP4=LP
.param LP6=LP
.param LP8=LP
.param LP9=LP
.param LP11=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet
.param LRB11=(RB11/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 5 6 jjmit area=B3
B4 9 10 jjmit area=B4
B5 12 13 jjmit area=B5
B6 13 14 jjmit area=B6
B7 8 15 jjmit area=B7
B8 18 19 jjmit area=B8
B9 20 21 jjmit area=B9
B10 23 18 jjmit area=B10
B11 24 25 jjmit area=B11
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 7 pwl(0 0 5p IB2)
IB3 0 11 pwl(0 0 5p IB3)
IB4 0 17 pwl(0 0 5p IB4)
IB5 0 22 pwl(0 0 5p IB5)
IB6 0 26 pwl(0 0 5p IB6)
LB1 3 1 7.35E-013
LB2 7 5 7.798E-013
LB3 11 9 1.023E-012
LB4 17 16 1.981E-012
LB5 22 20 6.382E-013
LB6 26 24 1.181E-012
L1 a 1 1.861E-012
L2 1 4 3.103E-012
L3 5 8 2.808E-012
L4 b 9 1.712E-012
L5 9 12 2.775E-012
L6 13 8 3.652E-012
L7 15 16 1.455E-012
L8 16 18 2.018E-012
L9 clk 20 1.37E-012
L10 20 23 3.239E-012
L11 18 24 3.321E-012
L12 24 q 1.698E-012
LP1 2 0 4.356E-013
LP3 6 0 4.322E-013
LP4 10 0 3.473E-013
LP6 14 0 3.698E-013
LP8 19 0 4.794E-013
LP9 21 0 3.788E-013
LP11 25 0 4.491E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 5 LRB2
RB3 5 105 RB3
LRB3 105 0 LRB3
RB4 9 109 RB4
LRB4 109 0 LRB4
RB5 12 112 RB5
LRB5 112 13 LRB5
RB6 13 113 RB6
LRB6 113 0 LRB6
RB7 8 108 RB7
LRB7 108 15 LRB7
RB8 18 118 RB8
LRB8 118 0 LRB8
RB9 20 120 RB9
LRB9 120 0 LRB9
RB10 23 123 RB10
LRB10 123 18 LRB10
RB11 24 124 RB11
LRB11 124 0 LRB11
.ends
