* NDROT — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 16 total
*   B1: area=1.6, IC=160uA
*   B2: area=1.45, IC=145uA
*   B3: area=2.15, IC=215uA
*   B4: area=1.73, IC=173uA
*   B5: area=2.54, IC=254uA
*   B6: area=1.6, IC=160uA
*   B7: area=1.45, IC=145uA
*   B8: area=2.15, IC=215uA
*   B9: area=1.73, IC=173uA
*   B10: area=2.54, IC=254uA
*   B11: area=0.74, IC=74uA
*   B12: area=1.57, IC=157uA
*   B13: area=1.6, IC=160uA
*   B14: area=1.6, IC=160uA
*   B15: area=1.08, IC=108uA
*   B16: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/NDROT.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_NDROT a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=1.6
.param B2=1.45
.param B3=2.15
.param B4=1.73
.param B5=2.54
.param B6=1.6
.param B7=1.45
.param B8=2.15
.param B9=1.73
.param B10=2.54
.param B11=0.74
.param B12=1.57
.param B13=1.6
.param B14=1.6
.param B15=1.08
.param B16=2.5
.param IB1=268u
.param IB2=129u
.param IB3=225u
.param IB4=268u
.param IB5=129u
.param IB6=115u
.param IB7=254u
.param IB8=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param LB7=LB
.param LB8=LB
.param L1=Lptl
.param L2=2.3873p
.param L3=2.7660p
.param L4=4.1774p
.param L5=3.2486p
.param L6=3.7241p
.param L7=Lptl
.param L8=2.3873p
.param L9=2.7660p
.param L10=4.1774p
.param L11=3.2486p
.param L12=3.7241p
.param L13=0.8049p
.param L14=0.8860p
.param L15=Lptl
.param L16=2.6122p
.param L17=2.6435p
.param L18=3.5452p
.param L19=4.6837p
.param L20=Lptl
.param LP1=LP
.param LP2=LP
.param LP3=LP
.param LP5=LP
.param LP6=LP
.param LP7=LP
.param LP8=LP
.param LP10=LP
.param LP12=LP
.param LP13=LP
.param LP14=LP
.param LP16=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param RB12=B0Rs/B12
.param RB13=B0Rs/B13
.param RB14=B0Rs/B14
.param RB15=B0Rs/B15
.param RB16=B0Rs/B16
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet
.param LRB12=(RB12/Rsheet)*Lsheet+LP
.param LRB13=(RB13/Rsheet)*Lsheet+LP
.param LRB14=(RB14/Rsheet)*Lsheet+LP
.param LRB15=(RB15/Rsheet)*Lsheet
.param LRB16=(RB16/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 5 6 jjmit area=B2
B3 7 8 jjmit area=B3
B4 10 11 jjmit area=B4
B5 11 12 jjmit area=B5
B6 15 16 jjmit area=B6
B7 19 20 jjmit area=B7
B8 21 22 jjmit area=B8
B9 24 25 jjmit area=B9
B10 25 26 jjmit area=B10
B11 14 27 jjmit area=B11
B12 30 31 jjmit area=B12
B13 32 33 jjmit area=B13
B14 36 37 jjmit area=B14
B15 38 30 jjmit area=B15
B16 39 40 jjmit area=B16
IB1 0 4 pwl(0 0 5p IB1)
IB2 0 9 pwl(0 0 5p IB2)
IB3 0 13 pwl(0 0 5p IB3)
IB4 0 18 pwl(0 0 5p IB4)
IB5 0 23 pwl(0 0 5p IB5)
IB6 0 29 pwl(0 0 5p IB6)
IB7 0 35 pwl(0 0 5p IB7)
IB8 0 41 pwl(0 0 5p IB8)
LB1 4 3 8.139E-013
LB2 9 7 6.905E-013
LB3 13 11 2.05E-012
LB4 18 17 7.93E-013
LB5 23 21 6.92E-013
LB6 29 28 2.339E-012
LB7 35 34 2.399E-012
LB8 41 39 1.726E-012
L1 a 1 1.001E-012
L2 1 3 2.395E-012
L3 3 5 2.766E-012
L4 5 7 4.17E-012
L5 7 10 3.25E-012
L6 11 14 3.695E-012
L7 b 15 1.003E-012
L8 15 17 2.401E-012
L9 17 19 2.779E-012
L10 19 21 4.183E-012
L11 21 24 3.255E-012
L12 25 14 3.713E-012
L13 27 28 8.093E-013
L14 28 30 8.804E-013
L15 clk 32 1.351E-012
L16 32 34 2.624E-012
L17 34 36 2.63E-012
L18 36 38 3.565E-012
L19 30 39 4.674E-0121
L20 39 42 6.06E-013
RD 42 q RD
LP1 2 0 3.626E-013
LP2 6 0 4.608E-013
LP3 8 0 3.732E-013
LP5 12 0 4.072E-013
LP6 16 0 3.63E-013
LP7 20 0 4.592E-013
LP8 22 0 3.742E-013
LP10 26 0 3.912E-013
LP12 31 0 4.701E-013
LP13 33 0 3.832E-013
LP14 37 0 4.271E-013
LP16 40 0 3.764E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2
RB3 7 107 RB3
LRB3 107 0 LRB3
RB4 10 110 RB4
LRB4 110 11 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 15 115 RB6
LRB6 115 0 LRB6
RB7 19 119 RB7
LRB7 119 0 LRB7
RB8 21 121 RB8
LRB8 121 0 LRB8
RB9 24 124 RB9
LRB9 124 25 LRB9
RB10 25 125 RB10
LRB10 125 0 LRB10
RB11 14 127 RB11
LRB11 127 27 LRB11
RB12 30 130 RB12
LRB12 130 0 LRB12
RB13 32 132 RB13
LRB13 132 0 LRB13
RB14 36 136 RB14
LRB14 136 0 LRB14
RB15 38 138 RB15
LRB15 138 30 LRB15
RB16 39 139 RB16
LRB16 139 0 LRB16
.ends
