* NOTT — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a clk q
* Junctions: 10 total
*   B1: area=1.6, IC=160uA
*   B2: area=2.38, IC=238uA
*   B3: area=0.77, IC=77uA
*   B4: area=0.73, IC=73uA
*   B5: area=1.98, IC=198uA
*   B6: area=1.6, IC=160uA
*   B7: area=2.18, IC=218uA
*   B8: area=0.87, IC=87uA
*   B9: area=0.82, IC=82uA
*   B10: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/NOTT.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_NOTT a clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=1.6
.param B2=2.38
.param B3=0.77
.param B4=0.73
.param B5=1.98
.param B6=1.6
.param B7=2.18
.param B8=0.87
.param B9=0.82
.param B10=2.5
.param IB1=267u
.param IB2=114u
.param IB3=241u
.param IB4=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param L1=Lptl
.param L2=2.3963p
.param L3=2.9984p
.param L4=5.5602p
.param L5=1.8403p
.param L6=8.5410p
.param L7=Lptl
.param L8=2.8313p
.param L9=3.4874p
.param L10=5.2166p
.param L11=1.5349p
.param L12=8.5298p
.param L13=Lptl
.param LP1=LP
.param LP2=LP
.param LP6=LP
.param LP7=LP
.param LP9=LP
.param LP10=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 5 6 jjmit area=B2
B3 7 8 jjmit area=B3
B4 10 11 jjmit area=B4
B5 12 13 jjmit area=B5
B6 14 15 jjmit area=B6
B7 18 19 jjmit area=B7
B8 13 20 jjmit area=B8
B9 11 21 jjmit area=B9
B10 22 23 jjmit area=B10
IB1 0 4 pwl(0 0 5p IB1)
IB2 0 9 pwl(0 0 5p IB2)
IB3 0 17 pwl(0 0 5p IB3)
IB4 0 24 pwl(0 0 5p IB4)
LB1 4 3 2.006E-012
LB2 9 8 4.261E-012
LB3 17 16 4.788E-013
LB4 24 22 1.011E-012
L1 a 1 1.41E-012
L2 1 3 2.393E-012
L3 3 5 3E-012
L4 5 7 5.514E-012
L5 8 10 1.851E-012
L6 8 12 8.457E-012
L7 clk 14 1.492E-012
L8 14 16 2.817E-012
L9 16 18 3.474E-012
L10 18 13 5.206E-012
L11 11 20 1.537E-012
L12 11 22 8.509E-012
L13 22 25 7.694E-013
RD 25 q RD
LP1 2 0 4.024E-013
LP2 6 0 4.485E-013
LP6 15 0 3.866E-013
LP7 19 0 4.773E-013
LP9 21 0 5.266E-013
LP10 23 0 3.249E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2
RB3 7 107 RB3
LRB3 107 8 LRB3
RB4 10 110 RB4
LRB4 110 11 LRB4
RB5 12 112 RB5
LRB5 112 13 LRB5144RB6 14 114 RB6
LRB6 114 0 LRB6
RB7 18 118 RB7
LRB7 118 0 LRB7
RB8 13 113 RB8
LRB8 113 20 LRB8
RB9 11 111 RB9
LRB9 111 0 LRB9
RB10 22 122 RB10
LRB10 122 0 LRB10
.ends
