* OR2 — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 12 total
*   B1: area=2.5, IC=250uA
*   B2: area=1.67, IC=167uA
*   B3: area=1.48, IC=148uA
*   B4: area=2.5, IC=250uA
*   B5: area=1.67, IC=167uA
*   B6: area=1.48, IC=148uA
*   B7: area=2.27, IC=227uA
*   B8: area=2.36, IC=236uA
*   B9: area=1.76, IC=176uA
*   B10: area=2.5, IC=250uA
*   B11: area=1.44, IC=144uA
*   B12: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/OR2.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_OR2 a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=1.67
.param B3=1.48
.param B4=2.5
.param B5=1.67
.param B6=1.48
.param B7=2.27
.param B8=2.36
.param B9=1.76
.param B10=2.5
.param B11=1.44
.param B12=2.5
.param IB1=175u
.param IB2=175u
.param IB3=283u
.param IB4=158u
.param IB5=175u
.param IB6=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param L1=1.6049p
.param L2=4.4173p
.param L3=0.7163p
.param L4=1.6049p
.param L5=4.4173p
.param L6=0.7163p
.param L7=3.2947p
.param L8=8.7190p
.param L9=2.1422p
.param L10=3.7843p
.param L11=3.9628p
.param L12=1.6906p
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP8=LP
.param LP9=LP
.param LP10=LP
.param LP12=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param RB12=B0Rs/B12
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet
.param LRB12=(RB12/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 4 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 11 13 jjmit area=B6
B7 15 16 jjmit area=B7
B8 16 17 jjmit area=B8
B9 19 20 jjmit area=B9
B10 21 22 jjmit area=B10
B11 24 19 jjmit area=B11
B12 25 26 jjmit area=B12
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 18 pwl(0 0 5p IB4)
IB5 0 23 pwl(0 0 5p IB5)
IB6 0 27 pwl(0 0 5p IB6)
LB1 3 1 LB1
LB2 10 8 LB2
LB3 14 7 LB3
LB4 18 16 LB4
LB5 23 21 LB5
LB6 27 25 LB6
L1 a 1 1.592E-012
L2 1 4 4.395E-012
L3 6 7 7.134E-013
L4 b 8 1.61E-012
L5 8 11 4.378E-012
L6 13 7 7.212E-013
L7 7 15 3.29E-012
L8 16 19 8.747E-012
L9 clk 21 2.161E-012
L10 21 24 3.766E-012
L11 19 25 3.926E-012
L12 25 q 1.675E-012
LP1 2 0 4.683E-013
LP2 5 0 4.125E-013
LP4 9 0 3.472E-013
LP5 12 0 4.43E-013
LP8 17 0 4.666E-013
LP9 20 0 4.384E-013
LP10 22 0 3.63E-013
LP12 26 0 4.421E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 4 106 RB3
LRB3 106 6 LRB3152RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 11 113 RB6
LRB6 113 13 LRB6
RB7 15 115 RB7
LRB7 115 16 LRB7
RB8 16 116 RB8
LRB8 116 0 LRB8
RB9 19 119 RB9
LRB9 119 0 LRB9
RB10 21 121 RB10
LRB10 121 0 LRB10
RB11 24 124 RB11
LRB11 124 19 LRB11
RB12 25 125 RB12
LRB12 125 0 LRB12
.ends
