* OR2T — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 15 total
*   B1: area=1.6, IC=160uA
*   B2: area=1.28, IC=128uA
*   B3: area=1.65, IC=165uA
*   B4: area=1.25, IC=125uA
*   B5: area=1.6, IC=160uA
*   B6: area=1.28, IC=128uA
*   B7: area=1.65, IC=165uA
*   B8: area=1.25, IC=125uA
*   B9: area=1.67, IC=167uA
*   B10: area=1.95, IC=195uA
*   B11: area=1.6, IC=160uA
*   B12: area=1.59, IC=159uA
*   B13: area=1.44, IC=144uA
*   B14: area=2.09, IC=209uA
*   B15: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/OR2T.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_OR2T a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=1.6
.param B2=1.28
.param B3=1.65
.param B4=1.25
.param B5=1.6
.param B6=1.28
.param B7=1.65
.param B8=1.25
.param B9=1.67
.param B10=1.95
.param B11=1.6
.param B12=1.59
.param B13=1.44
.param B14=2.09
.param B15=2.5
.param IB1=112u
.param IB2=156u
.param IB3=112u
.param IB4=156u
.param IB5=210u
.param IB6=176u
.param IB7=242u
.param IB8=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param LB7=LB
.param LB8=LB
.param L1=Lptl
.param L2=6.7019p
.param L3=6.2519p
.param L4=0.7723p
.param L5=Lptl
.param L6=6.7019p
.param L7=6.2519p
.param L8=0.7723p
.param L9=4.6089p
.param L10=7.7141p
.param L11=Lptl
.param L12=2.7407p
.param L13=3.4070p
.param L14=4.5212p
.param L15=4.5560p
.param L16=Lptl
.param LP1=LP
.param LP2=LP
.param LP3=LP
.param LP5=LP
.param LP6=LP
.param LP7=LP
.param LP10=LP
.param LP11=LP
.param LP12=LP
.param LP14=LP
.param LP15=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param RB12=B0Rs/B12
.param RB13=B0Rs/B13
.param RB14=B0Rs/B14
.param RB15=B0Rs/B15
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet
.param LRB9=(RB9/Rsheet)*Lsheet
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet+LP
.param LRB12=(RB12/Rsheet)*Lsheet+LP
.param LRB13=(RB13/Rsheet)*Lsheet
.param LRB14=(RB14/Rsheet)*Lsheet+LP
.param LRB15=(RB15/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 7 8 jjmit area=B3
B4 7 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 14 15 jjmit area=B6
B7 17 18 jjmit area=B7
B8 17 19 jjmit area=B8
B9 21 22 jjmit area=B9
B10 22 23 jjmit area=B10
B11 26 27 jjmit area=B11
B12 30 31 jjmit area=B12
B13 32 25 jjmit area=B13
B14 25 33 jjmit area=B14
B15 34 35 jjmit area=B15
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
IB3 0 13 pwl(0 0 5p IB3)
IB4 0 16 pwl(0 0 5p IB4)
IB5 0 20 pwl(0 0 5p IB5)
IB6 0 24 pwl(0 0 5p IB6)
IB7 0 29 pwl(0 0 5p IB7)
IB8 0 36 pwl(0 0 5p IB8)
LB1 3 1 4.448E-012
LB2 6 4 2.203E-012
LB3 13 11 4.442E-012
LB4 16 14 2.187E-012
LB5 20 10 3.603E-012
LB6 24 22 1.443E-012
LB7 29 28 1.069E-012
LB8 36 34 8.669E-013
L1 a 1 1.444E-012
L2 1 4 6.665E-012
L3 4 7 6.254E-012
L4 9 10 7.702E-013
L5 b 11 1.443E-012
L6 11 14 6.656E-012
L7 14 17 6.244E-012
L8 19 10 7.773E-013
L9 10 21 4.573E-012
L10 22 25 7.702E-012
L11 clk 26 1.282E-012
L12 26 28 2.735E-012
L13 28 30 3.418E-012
L14 30 32 4.48E-012
L15 25 34 4.553E-012
L16 34 37 8.104E-013
RD 37 q RD
LP1 2 0 4.195E-0131
LP2 5 0 5.813E-013
LP3 8 0 4.455E-013
LP5 12 0 4.193E-013
LP6 15 0 5.831E-013
LP7 18 0 4.774E-013
LP10 23 0 4.819E-013
LP11 27 0 3.541E-013
LP12 31 0 4.657E-013
LP14 33 0 4.19E-013
LP15 35 0 3.333E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 7 107 RB3
LRB3 107 0 LRB3
RB4 7 109 RB4
LRB4 109 9 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 14 114 RB6
LRB6 114 0 LRB6
RB7 17 117 RB7
LRB7 117 0 LRB7
RB8 17 119 RB8
LRB8 119 19 LRB8
RB9 21 121 RB9
LRB9 121 22 LRB9
RB10 22 122 RB10
LRB10 122 0 LRB10
RB11 26 126 RB11
LRB11 126 0 LRB11
RB12 30 130 RB12
LRB12 130 0 LRB12
RB13 32 132 RB13
LRB13 132 25 LRB13
RB14 25 125 RB14
LRB14 125 0 LRB14
RB15 34 134 RB15
LRB15 134 0 LRB15
.ends
